US04794181
1-(3,4-Dichlorophenoxy)-7,8-dimethoxy-2,3,4,5-tetrahydro-3-benzazepine oxalate
A solution of 7,8-dimethoxy-1-hydroxy-2,3,4,5-tetrahydro-3-benzazepine (3 g, 13.4 mmole) in 25 ml dimethylformamide was slowly dropped into a stirring suspension of sodium hydride (50% oil dispersion, 0.7 g, 14.8 mmole), previously washed with hexane, in 10 ml dimethylformamide. After the addition was completed, the mixture was warmed for one hour at 60° C., then was cooled and a solution of 3,4-dichlorofluorobenzene (2.4 g, 14.8 mmole) in 10 ml dimethylformamide was added. After stirring two hours at ambient temperature, the reaction mixture was stirred with 400 ml water and was extracted with ethyl acetate. The organic extract was washed with ethyl acetate. The organic extract was washed with water and saturated NaCl and was dried (anhydrous MgSO4), filtered and evaporated to 7 g of an oil. This oil was purified by HPLC (silica gel, 5% methanol in dichloromethane) to give 2.8 g (57%) of an oil. This oil was converted to the oxalate salt as in Example 1 and was recrystallized from ethyl acetate-methanol to give 2.1 g (34%) of 1,(3-4-dichlorophenoxy)-7,8-dimethoxy-2,3,4,5-tetrahydro-3-benzazepine oxalate, d 167°-168° C.

reactant | 7,8-dimethoxy-1-hydroxy-2,3,4,5-tetrahydro-3-benzazepine | 13.4 mmole, 3 g | COC1=CC2=C(C(CNCC2)O)C=C1OC | C12H17NO3
reactant | sodium hydride | 14.8 mmole, 0.7 g | [H-].[Na+]
reactant | 3,4-dichlorofluorobenzene | 14.8 mmole, 2.4 g | ClC=1C=C(C=CC1Cl)F | C6H3Cl2F
reactant | water | 400 ml | O | H2O
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(3,4-Dichlorophenoxy)-7,8-dimethoxy-2,3,4,5-tetrahydro-3-benzazepine oxalate | 2.8 g, 57% | C(C(=O)O)(=O)O.ClC=1C=C(OC2CNCCC3=C2C=C(C(=C3)OC)OC)C=CC1Cl | InChI=1S/C18H19Cl2NO3.C2H2O4/c1-22-16-7-11-5-6-21-10-18(13(11)9-17(16)23-2)24-12-3-4-14(19)15(20)8-12;3-1(4)2(5)6/h3-4,7-9,18,21H,5-6,10H2,1-2H3;(H,3,4)(H,5,6)
